2200-07-24 09:39:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2200-7-23**] 10:01 PM
 EKG - At [**2200-7-23**] 10:14 PM
 EKG - At [**2200-7-23**] 10:23 PM
   Allergies:
   Penicillins
   Anaphylaxis;
   Protonix (Oral) (Pantoprazole Sodium)
   ? mild facial s
   Codeine
   pruritis;
   Venomil Honey Bee Venom (Injection) (Hymenoptera Allergenic
   Unknown; Anaphy
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2200-7-23**] 10:20 PM
   Morphine Sulfate - [**2200-7-24**] 01:05 AM
   Other medications:
   Zocor, Mucomyst,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-7-24**] 09:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98
   HR: 58 (56 - 73) bpm
   BP: 99/51(62) {81/44(54) - 124/83(91)} mmHg
   RR: 13 (12 - 17) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   CVP: 14 (14 - 20)mmHg
   Total In:
                                                                  2,024 mL
                                                                  1,036 mL
   PO:
   TF:
   IVF:
                                                                     24 mL
                                                                  1,036 mL
   Blood products:
   Total out:
                                                                    250 mL
                                                                  1,750 mL
   Urine:
                                                                    150 mL
                                                                  1,750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,774 mL
                                                                   -714 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   Gen sitting up in chair conversant NAD
   HEENT: o/p clear
   CV: RR 2/6 sys murmur
   Chest: very faint bibasilar rales
   ABd: soft NT + BS
   Ext: no edema
   Neuro: conversant
   Labs / Radiology
   8.8 g/dL
   184 K/uL
   108 mg/dL
   4.7 mg/dL
   22 mEq/L
   4.5 mEq/L
   56 mg/dL
   104 mEq/L
   138 mEq/L
   26.1 %
   6.5 K/uL
        [image002.jpg]
                             [**2200-7-23**]  08:48 PM
                             [**2200-7-23**]  11:53 PM
                             [**2200-7-24**]  06:25 AM
   WBC
   6.5
   Hct
   27.6
   26.1
   Plt
   184
   Cr
   4.8
   5.0
   4.7
   TropT
   0.02
   Glucose
   107
   77
   108
   Other labs: CK / CKMB / Troponin-T:119/5/0.02, Differential-Neuts:82.5
   %, Lymph:10.8 %, Mono:3.5 %, Eos:2.9 %, Lactic Acid:0.6 mmol/L,
   Ca++:7.4 mg/dL, Mg++:2.3 mg/dL, PO4:5.8 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   1.       Hypotension: Patient with hypotension without evidence of
   aortic dissection which was initial concern, does not appear septic, or
   in frank cardiogenic shock. Leading thoughts were he was hypovolemic
   and on bblockers- had done well with some volume but then hypoxemic so
   got diuresed and then BP borderline. Try glucagon now. Check ScVo2.
   Echo and if drops BP see if he is still fluid responsive then Levophed
   if persists.
   2.       Acute renal failure:  worrisome for ATN with low BP even at
   home (see OMR notes) and now got a dye load on top of it so we will
   need to watch BUN Cr and UOP closely.
   3.       HyperK: Rx with bicarb and Ca gluconate - Elevated serum
   potassium probably related to acidosis and low urine output. Improving
   with volume resuscitation. Acidosis has anion gap probably related to
   renal failure.
   4.       Abd Aortic Anuerysm: stable
 Vasc following
   5.       Resp Distress: initially hypoxemic after IVF last PM- and has
   baseline COPD- will watch as he requilibrates. Thought of PE raised
   will ask for reformmated images but does not look like prox PE on
   images I can see
 call Rads to follow up
 check repeat ABG
   Remaining isssues as per Housestaff
   ICU Care
   Nutrition: po diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2200-7-23**] 09:29 PM
   Multi Lumen - [**2200-7-23**] 10:01 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   Communication:  with patient at bedside and will update family on
   arrival
   Code status: Full code
   Disposition :ICU
   Total time spent: 40

2200-07-24 10:38:00 Physician Resident Progress Note
Chief Complaint:  unable to place A-line [**1-6**] poor vasculature,
   hypotension on pressors
   24 Hour Events:
 MULTI LUMEN - START [**2200-7-23**] 10:01 PM
 EKG - At [**2200-7-23**] 10:14 PM
 EKG - At [**2200-7-23**] 10:23 PM
   Allergies:
   Penicillins
   Anaphylaxis;
   Protonix (Oral) (Pantoprazole Sodium)
   ? mild facial s
   Codeine
   pruritis;
   Venomil Honey Bee Venom (Injection) (Hymenoptera Allergenic
   Unknown; Anaphy
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2200-7-23**] 10:20 PM
   Morphine Sulfate - [**2200-7-24**] 01:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-7-24**] 10:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98
   HR: 58 (56 - 73) bpm
   BP: 99/51(62) {81/44(54) - 124/83(91)} mmHg
   RR: 13 (12 - 17) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
    CVP: 14 (14 - 20)mmHg
   Total In:
                                                                  2,024 mL
                                                                  1,132 mL
   PO:
   TF:
   IVF:
                                                                     24 mL
                                                                  1,132 mL
   Blood products:
   Total out:
                                                                    250 mL
                                                                  1,750 mL
   Urine:
                                                                    150 mL
                                                                  1,750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,774 mL
                                                                   -618 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   Cardiovascular: comfortable in bed
   RRR, soft systolic murmur in RUSB
   bibasilar crackles
   WWP
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   184 K/uL
   8.8 g/dL
   108 mg/dL
   4.7 mg/dL
   22 mEq/L
   4.5 mEq/L
   56 mg/dL
   104 mEq/L
   138 mEq/L
   26.1 %
   6.5 K/uL
        [image002.jpg]
                             [**2200-7-23**]  08:48 PM
                             [**2200-7-23**]  11:53 PM
                             [**2200-7-24**]  06:25 AM
   WBC
   6.5
   Hct
   27.6
   26.1
   Plt
   184
   Cr
   4.8
   5.0
   4.7
   TropT
   0.02
   Glucose
   107
   77
   108
   Other labs: CK / CKMB / Troponin-T:119/5/0.02, Differential-Neuts:82.5
   %, Lymph:10.8 %, Mono:3.5 %, Eos:2.9 %, Lactic Acid:0.6 mmol/L,
   Ca++:7.4 mg/dL, Mg++:2.3 mg/dL, PO4:5.8 mg/dL
   Microbiology: blood cx p x2, MRSA screen, UCx p
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Assessment and Plan
   Assessment & Plan: 62y.o M with a PMH of HTN, hyperlipidemia, AAA
   (4.4cm [**10-12**]), RAS s/p L renal stent [**2195**], PVD, CKD (baseline Cr 2.0)
   admitted with hypotension.
   .
   # Hypotension - The patient has no evidence of aortic dissection on
   CTA. Exam demonstrated CVP of 20. Warm Extremities with good capillary
   refill. Given good perfusion and elevated CVP, cardiogenic or septic
   etiology made less likely. No evidence of fever or leukocytosis. BP now
   improved to 110s. Pt had change in meds as outpatient ,with inc in home
   labetolol. Consider antihypertensive agents major contributor to low
   blood pressure. CE and ECG without evidence of acute ischemia .
   - Given elevated CVP will hold on further volume resuscitation, start
   gentle diuresis
   - Cycle CE, repeat ECG in am
   - Given history of night sweats/myalgias will send surveillance
   cultures, hold on antibiotics for now given low suspicion of infectious
   etiology
   .
   # Acute Renal Failure - Cr up to 5.2 from baseline ~2 to 2.1 this am.
   Etiology may be prerenal/poor perfusion leading to ATN. Pt high risk
   for contrast induced nephropathy following CTA. Now with worsening
   hypoxia following IVF. Got lasix, 40mg IV y/d to determine whether he
   could make urine.  Now receiving IV bicarb post contrast. FENA <1, able
   to conc urine, prerenal vs ATN picture-too early for contrast induced
   nephropathy.
   - Hold nephrotoxins, hold valsartan
   - Repeat UA/Ulytes
   - Renal Consult in am
   .
   # Hyperkalemia - elevated K in setting of renal failure. Given Ca and
   bicarb in ED. K improved to 4.5 iniitially, now 5.3. No ECG changes
   - Continue to monitor
   .
   # AAA/Aortic Ulceration - stable per CTA. Vascular and CT surgery
   following
   - appreciate surgery recs
   - continue to monitor
   .
   # Chronic Low Back Pain secondary to Compression Fractures -
   - Will hold oxycodone and give morphine 1-2mg IV Q 4 PRN pain
   - Restart po meds in am if stable
   .
   # Anemia - Hct down slightly to 30 from 27.6.  No evidence of bleeding.
   - Recheck HCT, concerning in setting AAAA.
   Monitor stool guaiac
   - Transfuse for HCT<21
   - to vascular stat if HCT drop on repeat.BP goals systolic <120, BP
   >55.
   .
   # FEN - renal/cardiac diet
   .
   # Prophy - SC heparin
   .
   # Access - L IJ, PIV
   .
   # Code - Full
   .
   # Disp - Pending above
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   18 Gauge - [**2200-7-23**] 09:29 PM
   Multi Lumen - [**2200-7-23**] 10:01 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: If stable q12 off pressors, dc to floor

2200-07-25 07:38:00 Physician Resident Progress Note
Chief Complaint: 62 yo M with a PMH of HTN, hyperlipidemia, AAA (4.4cm
   [**10-12**]), RAS s/p L renal stent [**2195**], PVD, CKD (baseline Cr 2.0) admitted
   with hypotension.
   24 Hour Events:
   TTE: Compared with the prior study of [**2200-2-19**], the inferior and
   inferolateral walls are much improved with very mild focal
   inferolateral hypokinesis. The overall left ventricular systolic
   function is normal. The left ventricle is small and mildly
   hypertrophied compared to prior study, consistent with a low preload
   with underfilling.
   Continued to have episodes of hypotension, intermittently requiring
   Levophed to keep SBP's above 90. CVP in evening was found to be 9. MV
   was 54 early in day. Later in day MV 70, gave 500ml IVF bolus, MV to 60
   post. No clinical change after bolus. Leveophed was restarted around
   midnight due to decreased MAPs.
   A-line placement attempted twice without success
   Renal consulted - acute on chornic renal failure is most likely due to
   pre-renal or ATN. Repeat urine lytes. Cannot rule out cholesterol
   emboli however not likely due to negative eos. No indication for
   dialysis at this time.
   Allergies:
   Penicillins
   Anaphylaxis;
   Protonix (Oral) (Pantoprazole Sodium)
   ? mild facial s
   Codeine
   pruritis;
   Venomil Honey Bee Venom (Injection) (Hymenoptera Allergenic
   Unknown; Anaphy
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2200-7-25**] 12:32 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-7-25**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.4
C (99.3
   HR: 71 (57 - 73) bpm
   BP: 114/47(64) {66/29(40) - 153/84(135)} mmHg
   RR: 21 (11 - 30) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 18 (9 - 355)mmHg
   Mixed Venous O2% Sat: 56 - 70
   Total In:
                                                                  2,615 mL
                                                                    406 mL
   PO:
                                                                    840 mL
                                                                    340 mL
   TF:
   IVF:
                                                                  1,775 mL
                                                                     66 mL
   Blood products:
   Total out:
                                                                  3,345 mL
                                                                    750 mL
   Urine:
                                                                  2,945 mL
                                                                    750 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                   -730 mL
                                                                   -344 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 89%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   166 K/uL
   8.5 g/dL
   105 mg/dL
   3.8 mg/dL
   24 mEq/L
   4.1 mEq/L
   49 mg/dL
   107 mEq/L
   141 mEq/L
   26.9 %
   4.4 K/uL
        [image002.jpg]
                             [**2200-7-23**]  08:48 PM
                             [**2200-7-23**]  11:53 PM
                             [**2200-7-24**]  06:25 AM
                             [**2200-7-24**]  11:13 AM
                             [**2200-7-24**]  04:11 PM
                             [**2200-7-24**]  08:43 PM
                             [**2200-7-25**]  03:03 AM
   WBC
   6.5
   4.4
   Hct
   27.6
   26.1
   26.2
   25.0
   26.9
   Plt
   184
   166
   Cr
   4.8
   5.0
   4.7
   4.2
   3.8
   TropT
   0.02
   0.03
   0.03
   Glucose
   107
   77
   108
   114
   105
   Other labs: PT / PTT / INR:15.2/27.5/1.3, CK / CKMB /
   Troponin-T:119/5/0.03, ALT / AST:[**11-17**], Alk Phos / T Bili:103/0.4,
   Differential-Neuts:70.7 %, Lymph:19.2 %, Mono:4.5 %, Eos:5.4 %, Lactic
   Acid:0.7 mmol/L, Albumin:3.6 g/dL, LDH:151 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.2 mg/dL
   Imaging: [**7-24**] Echo Compared with the prior study (images reviewed) of
   [**2200-2-19**], the inferior and inferolateral walls are much improved with
   very mild focal inferolateral hypokinesis. The overall left ventricular
   systolic function is normal. The left ventricle is small and mildly
   hypertrophied compared to prior study, consistent with a low preload
   with underfilling.
   [**7-24**] Renal U/S read pending
   Microbiology: [**7-23**] Urine culture negative
   [**7-23**] Blood culture negative
   Assessment and Plan
   62 yo M with a PMH of HTN, hyperlipidemia, AAA (4.4cm [**10-12**]), RAS s/p L
   renal stent [**2195**], PVD, CKD (baseline Cr 2.0) admitted with hypotension,
   acute on chronic renal failure.
   .
   # Hypotension- The patient has no evidence of aortic dissection on CTA.
   Initial exam demonstrated a CVP of 20, warm extremities with good
   capillary refill. CE and EKG without evidence of acute ischemia. Narrow
   pulse pressure. No evidence of fever or leukocytosis. SBP to 110's.
   Patient had recent change in medications with increase in home
   labetalol.
   Very odd picture without clear etiology. [**Month (only) 60**] be that we are not
   accurately measuring BP. Not acting as if hypoperfusing.
   Despite hypotension patient has maintained good urine output, mental
   status and warm extremities...may be that blood pressure is not
   accurate, however, never had problems with measurements before. Did not
   respond to fluid challenge. Echo suggestive of fluid down without clear
   cardiac etiology. CVP appears increased today.
   [**Month (only) 60**] be volume up and fallen off of starling curve with cardiogenic
   picture. Consider lasix to see if there is a response to blood
   pressure.
   - Trend CVP, lactate, MVO2
   - Consider femoral A-line for accurate pressures or monitor UOP, ext
   warm, mental status instead
   - If hypotensive - diurese with close observation to test theory of
   volume up (since volume down theory didn't respond to fluid challenge)
   - Hold antihypertensives
   - Wean levophed as tolerated
   - Follow up cultures - low suspicion of infection at this time.
   .
   # Acute Renal Failure - Cr up to 5.2 from baseline ~2 to 2.1 this am.
   Etiology may be prerenal/poor perfusion leading to ATN. Pt high risk
   for contrast induced nephropathy following CTA. Now with worsening
   hypoxia following IVF. Got lasix, 40mg IV y/d to determine whether he
   could make urine.  Now receiving IV bicarb post contrast. FENA <1, able
   to conc urine, prerenal vs ATN picture-too early for contrast induced
   nephropathy. No indication for dialysis at this time. Renal consulted.
   - Trend BUN/Cr daily
   - Follow UOP
   - Hold nephrotoxins
   - Repeat UA/lytes
   - Follow up with renal
   - Follow up renal ultrasound
   .
   # AAA/Aortic Ulceration - stable per CTA. Vascular surgery following.
   CT surgery signed off.
   - BP goals normotensive but low
   - Will follow up as outpatient in 3 months with MRI
   .
   # Chronic Low Back Pain secondary to Compression Fractures
   - Monitor for changes in pain - AAA
   - Restart PO meds today
   .
   # Anemia - Hct down slightly to 30 from 27.6, now to 26.9.  No evidence
   of bleeding.
   - Recheck HCT q12h
   - Stool guaiac
   - Consider increasing transfusion threshold to 28-30
   - Contact vascular stat for hct drop
   .
   # FEN - renal/cardiac diet
   # Prophy - SC heparin
   # Access - L IJ, PIV
   # Code - Full
   # Disp - Pending above
   ICU Care
   Nutrition:
   Comments: Regular diet-renal, cardiac
   Glycemic Control:
   Lines:
   18 Gauge - [**2200-7-23**] 09:29 PM
   Multi Lumen - [**2200-7-23**] 10:01 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Need ICU consent formed
   Code status: Full code
   Disposition:ICU

2200-07-25 10:01:00 Physician Attending Progress Note
Chief Complaint: hypotension, ARF
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   remained hypotensive
   Echo showed good LV ef - ? underfilled
   SCVO2 was 54 on Levophed, then repeat off Levophed 70%, then given 500
   cc IVf and
   Allergies:
   Penicillins
   Anaphylaxis;
   Protonix (Oral) (Pantoprazole Sodium)
   ? mild facial s
   Codeine
   pruritis;
   Venomil Honey Bee Venom (Injection) (Hymenoptera Allergenic
   Unknown; Anaphy
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2200-7-25**] 12:32 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-7-25**] 10:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.2
C (98.9
   HR: 71 (58 - 73) bpm
   BP: 90/74(78) {66/29(40) - 153/84(135)} mmHg
   RR: 21 (11 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 12 (9 - 20)mmHg
   Mixed Venous O2% Sat: 56 - 70
   Total In:
                                                                  2,615 mL
                                                                    435 mL
   PO:
                                                                    840 mL
                                                                    340 mL
   TF:
   IVF:
                                                                  1,775 mL
                                                                     95 mL
   Blood products:
   Total out:
                                                                  3,345 mL
                                                                    750 mL
   Urine:
                                                                  2,945 mL
                                                                    750 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                   -730 mL
                                                                   -315 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///24/
   Physical Examination
   Gen sitting up in chair conversant NAD
   HEENT: o/p clear
   CV: RR 2/6 sys murmur
   Chest: very faint bibasilar rales
   ABd: soft NT + BS
   Ext: no edema
   Neuro: conversant
   Labs / Radiology
   8.5 g/dL
   166 K/uL
   105 mg/dL
   3.8 mg/dL
   24 mEq/L
   4.1 mEq/L
   49 mg/dL
   107 mEq/L
   141 mEq/L
   26.9 %
   4.4 K/uL
        [image002.jpg]
                             [**2200-7-23**]  08:48 PM
                             [**2200-7-23**]  11:53 PM
                             [**2200-7-24**]  06:25 AM
                             [**2200-7-24**]  11:13 AM
                             [**2200-7-24**]  04:11 PM
                             [**2200-7-24**]  08:43 PM
                             [**2200-7-25**]  03:03 AM
   WBC
   6.5
   4.4
   Hct
   27.6
   26.1
   26.2
   25.0
   26.9
   Plt
   184
   166
   Cr
   4.8
   5.0
   4.7
   4.2
   3.8
   TropT
   0.02
   0.03
   0.03
   Glucose
   107
   77
   108
   114
   105
   Other labs: PT / PTT / INR:15.2/27.5/1.3, CK / CKMB /
   Troponin-T:119/5/0.03, ALT / AST:[**11-17**], Alk Phos / T Bili:103/0.4,
   Differential-Neuts:70.7 %, Lymph:19.2 %, Mono:4.5 %, Eos:5.4 %, Lactic
   Acid:0.7 mmol/L, Albumin:3.6 g/dL, LDH:151 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   1.       Hypotension: Patient with hypotension without evidence of
   aortic dissection which was initial concern, does not appear septic, or
   in frank cardiogenic shock. Leading thoughts were he was hypovolemic
   and on bblockers- had done well with some volume but then hypoxemic so
   got diuresed and then BP borderline. Try glucagon now. Check ScVo2.
   Echo and if drops BP see if he is still fluid responsive then Levophed
   if persists.
   2.       Acute renal failure:  worrisome for ATN with low BP even at
   home (see OMR notes) and now got a dye load on top of it so we will
   need to watch BUN Cr and UOP closely.
   3.       HyperK: Rx with bicarb and Ca gluconate - Elevated serum
   potassium probably related to acidosis and low urine output. Improving
   with volume resuscitation. Acidosis has anion gap probably related to
   renal failure.
   4.       Abd Aortic Anuerysm: stable
 Vasc following
   5.       Resp Distress: initially hypoxemic after IVF last PM- and has
   baseline COPD- will watch as he requilibrates. Thought of PE raised
   will ask for reformmated images but does not look like prox PE on
   images I can see
 call Rads to follow up
 check repeat ABG
   Remaining isssues as per Housestaff
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2200-7-23**] 09:29 PM
   Multi Lumen - [**2200-7-23**] 10:01 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   Communication:
   Code status: Full code
   Disposition :
   Total time spent:

2200-07-26 06:40:00 Physician Resident Progress Note
Chief Complaint: The patient is a 62y.o M with a PMH of HTN,
   hyperlipidemia, AAA (4.4cm [**10-12**]), RAS s/p L renal stent [**2195**], PVD, CKD
   (baseline Cr 2.0) admitted with hypotension. The patient presented with
   complaints of back pain starting 4 days ago while lifting something
   heavy. States that it radiated up his back and down his legs and was
   increased in severity as compared to his baseline.
   24 Hour Events:
 ULTRASOUND - At [**2200-7-25**] 09:03 AM
   IVF challenge, pressures stable 100's/60's
   - Total of 4L
   - Back pain - morphine IV - will need to switch to more stable regimen
   (q4h) for floor when appropriate.
   Manual BP 90-130
s/50-70.  PT alert, good perfusion CVP 15.  C/O back
   pain- dull pain at all times but will become sharp and radiating.  2mg
   IVP Morphine x2.  Given Ambien for [**Name6 (MD) **] at MD- 1x episode waking and
   slightly confused but re-oriented by RN quickly per pt
 that
s the
   side effect of Ambien that [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **]
[**Initial (NamePattern1) **] [**Last Name (NamePattern1) 1586**]
.  Sat down to 85-88 off O2 and
   sleeping, no apnea noted but pt only sleeping in short episodes.
   Team felt pt was hypovolemic, pt subsequently bolused with a total of
   three liters today which allowed for his IV Levophed gtt to be weaned
   off by 11:30.  Pt went for both Renal & abd AAA US procedure today,
   results pending.  Significant back pain issues today with self ratings
   varying from 2 to 10 out of 10 with pt receiving 2mg IVP Morphine
   Sulfate Q2 hrs along with Lidocaine patch and PO Oxycodone 10mg Q4
   hrs.
   Allergies:
   Penicillins
   Anaphylaxis;
   Protonix (Oral) (Pantoprazole Sodium)
   ? mild facial s
   Codeine
   pruritis;
   Venomil Honey Bee Venom (Injection) (Hymenoptera Allergenic
   Unknown; Anaphy
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2200-7-25**] 09:38 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   comfortable, pain?
   MMM
   RRR,S1 S2 CLEAR
   CTAB
   ABD:
   ext: wwp
   Flowsheet Data as of  [**2200-7-26**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.7
C (98
   HR: 61 (59 - 74) bpm
   BP: 114/60(73) {68/20(40) - 130/74(78)} mmHg
   RR: 17 (12 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 17 (8 - 17)mmHg
   Total In:
                                                                  4,472 mL
                                                                    173 mL
   PO:
                                                                  1,300 mL
                                                                    140 mL
   TF:
   IVF:
                                                                  3,172 mL
                                                                     33 mL
   Blood products:
   Total out:
                                                                  1,625 mL
                                                                    310 mL
   Urine:
                                                                  1,625 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,847 mL
                                                                   -137 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   149 K/uL
   8.2 g/dL
   80 mg/dL
   2.9 mg/dL
   23 mEq/L
   4.6 mEq/L
   37 mg/dL
   110 mEq/L
   141 mEq/L
   26.4 %
   4.4 K/uL
        [image002.jpg]
                             [**2200-7-23**]  08:48 PM
                             [**2200-7-23**]  11:53 PM
                             [**2200-7-24**]  06:25 AM
                             [**2200-7-24**]  11:13 AM
                             [**2200-7-24**]  04:11 PM
                             [**2200-7-24**]  08:43 PM
                             [**2200-7-25**]  03:03 AM
                             [**2200-7-25**]  06:20 PM
                             [**2200-7-26**]  03:01 AM
   WBC
   6.5
   4.4
   4.4
   Hct
   27.6
   26.1
   26.2
   25.0
   26.9
   26.0
   26.4
   Plt
   184
   166
   149
   Cr
   4.8
   5.0
   4.7
   4.2
   3.8
   2.9
   TropT
   0.02
   0.03
   0.03
   Glucose
   107
   77
   108
   114
   105
   80
   Other labs: PT / PTT / INR:14.2/29.4/1.2, CK / CKMB /
   Troponin-T:119/5/0.03, ALT / AST:[**11-17**], Alk Phos / T Bili:103/0.4,
   Differential-Neuts:70.7 %, Lymph:19.2 %, Mono:4.5 %, Eos:5.4 %, Lactic
   Acid:0.7 mmol/L, Albumin:3.6 g/dL, LDH:151 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Imaging:  Abd US + doppler, [**2200-7-25**]: Small atrophic right kidney, which
   is unchanged.
   2. The left kidney is of good size, and while the resistive indices are
   high,
   the upstroke of the systolic waveform for the left renal artery appears
   good,
   indicating that the stent is patent.
   3. The abdominal aorta cannot be assessed due to patient's raised body
   mass
   index.
   CXR of 20th:  As compared to the previous radiograph, there is no
   relevant
   change. Unchanged course of the left jugular catheter. Unchanged
   moderate
   cardiomegaly without signs of overhydration. Unchanged small blunting
   of the
   left costophrenic sinus and minimal left suprabasal atelectasis. No
   newly
   appeared focal parenchymal opacities suggesting pneumonia. No
   pneumothorax.
   Microbiology: MRSA screen pending.
   Bld Cx x2, urine Cx -ve
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Assessment and Plan
   62 yo M with a PMH of HTN, hyperlipidemia, AAA (4.4cm [**10-12**]), RAS s/p L
   renal stent [**2195**], PVD, CKD (baseline Cr 2.0) admitted with hypotension,
   acute on chronic renal failure.
   .
   # Hypotension- The patient has no evidence of aortic dissection on CTA.
   Initial exam demonstrated a CVP of 20, warm extremities with good
   capillary refill. CE and EKG without evidence of acute ischemia. Narrow
   pulse pressure. No evidence of fever or leukocytosis. SBP to 110's.
   Patient had recent change in medications with increase in home
   labetalol.
   Very odd picture without clear etiology. [**Month (only) 60**] be that we are not
   accurately measuring BP. Not acting as if hypoperfusing.
   Despite hypotension patient has maintained good urine output, mental
   status and warm extremities...may be that blood pressure is not
   accurate, however, never had problems with measurements before. Did not
   respond to fluid challenge. Echo suggestive of fluid down without clear
   cardiac etiology. CVP appears increased today.
   - Trend CVP, lactate, MVO2
   - Consider femoral A-line for accurate pressures or monitor UOP, ext
   warm, mental status instead
   - Aggressive fluid challenge today to determine if cause of hypotension
 watch closely
 no levophed at time of challenge
   - Hold antihypertensives
   - Wean levophed as tolerated
   - Follow up cultures - low suspicion of infection at this time.
   .
   # Acute Renal Failure - Cr up to 5.2 from baseline ~2 to 2.1 this am.
   Etiology may be prerenal/poor perfusion leading to ATN. Pt high risk
   for contrast induced nephropathy following CTA. Now with worsening
   hypoxia following IVF. Got lasix, 40mg IV y/d to determine whether he
   could make urine.  Now receiving IV bicarb post contrast. FENA <1, able
   to conc urine, prerenal vs ATN picture-too early for contrast induced
   nephropathy. No indication for dialysis at this time. Renal consulted.
   - Trend BUN/Cr daily
   - Follow UOP
   - Hold nephrotoxins
   - Repeat UA/lytes
   - Follow up with renal
   - Follow up renal ultrasound
   .
   # AAA/Aortic Ulceration - stable per CTA. Vascular surgery following.
   CT surgery signed off.
   - BP goals normotensive but low
   - Will follow up as outpatient in 3 months with MRI
   .
   # Chronic Low Back Pain secondary to Compression Fractures
   - Monitor for changes in pain - AAA
   - Restart PO meds today
   .
   # Anemia - Hct down slightly to 30 from 27.6, now to 26.9.  No evidence
   of bleeding.
   - Recheck HCT q12h
   - Stool guaiac
   - Transfuse to hct >21
   - Contact vascular stat for hct drop
   .
   # FEN - renal/cardiac diet
   # Prophy - SC heparin
   # Access - L IJ, PIV
   # Code - Full
   # Disp - Pending above
   ICU Care
   Nutrition:
   Comments: Regular diet-renal, cardiac
   Glycemic Control:
   Lines:
   18 Gauge - [**2200-7-23**] 09:29 PM
   Multi Lumen - [**2200-7-23**] 10:01 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Need ICU consent formed
   Code status: Full code
   Disposition:ICU
   ICU Care
   Nutrition:
   Comments: ICU Care
   Nutrition:
   Comments: Regular diet-renal, cardiac
   ICU Care
   Nutrition:
   regular renal diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2200-7-23**] 09:29 PM
   Multi Lumen - [**2200-7-23**] 10:01 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:To floor

2200-07-26 11:14:00 Physician Attending Progress Note
Chief Complaint: Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Vasopressor discontinued yesterday AM, remains off vasopressor.
   States to feel much improved this AM.
   Describes back pain (chronic).
   Denies dyspnea.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Anaphylaxis;
   Protonix (Oral) (Pantoprazole Sodium)
   ? mild facial s
   Codeine
   pruritis;
   Venomil Honey Bee Venom (Injection) (Hymenoptera Allergenic
   Unknown; Anaphy
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2200-7-25**] 09:38 PM
   Heparin Sodium (Prophylaxis) - [**2200-7-26**] 08:05 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2200-7-26**] 11:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.9
C (98.4
   HR: 60 (59 - 74) bpm
   BP: 140/75(90) {90/54(70) - 148/80(95)} mmHg
   RR: 20 (12 - 28) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 22 (8 - 22)mmHg
   Total In:
                                                                  4,472 mL
                                                                    434 mL
   PO:
                                                                  1,300 mL
                                                                    380 mL
   TF:
   IVF:
                                                                  3,172 mL
                                                                     54 mL
   Blood products:
   Total out:
                                                                  1,625 mL
                                                                    725 mL
   Urine:
                                                                  1,625 mL
                                                                    725 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,847 mL
                                                                   -291 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///23/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): 0x3, Movement: Not assessed, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.2 g/dL
   149 K/uL
   80 mg/dL
   2.9 mg/dL
   23 mEq/L
   4.6 mEq/L
   37 mg/dL
   110 mEq/L
   141 mEq/L
   26.4 %
   4.4 K/uL
        [image002.jpg]
                             [**2200-7-23**]  08:48 PM
                             [**2200-7-23**]  11:53 PM
                             [**2200-7-24**]  06:25 AM
                             [**2200-7-24**]  11:13 AM
                             [**2200-7-24**]  04:11 PM
                             [**2200-7-24**]  08:43 PM
                             [**2200-7-25**]  03:03 AM
                             [**2200-7-25**]  06:20 PM
                             [**2200-7-26**]  03:01 AM
   WBC
   6.5
   4.4
   4.4
   Hct
   27.6
   26.1
   26.2
   25.0
   26.9
   26.0
   26.4
   Plt
   184
   166
   149
   Cr
   4.8
   5.0
   4.7
   4.2
   3.8
   2.9
   TropT
   0.02
   0.03
   0.03
   Glucose
   107
   77
   108
   114
   105
   80
   Other labs: PT / PTT / INR:14.2/29.4/1.2, CK / CKMB /
   Troponin-T:119/5/0.03, ALT / AST:[**11-17**], Alk Phos / T Bili:103/0.4,
   Differential-Neuts:70.7 %, Lymph:19.2 %, Mono:4.5 %, Eos:5.4 %, Lactic
   Acid:0.7 mmol/L, Albumin:3.6 g/dL, LDH:151 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   HYPOTENSION -- resolved.  Attributed in part to hypovolemia and
   predominately pharachological effects.  No evidence for aortic
   dissection.  Monitor BP, maintain MAP > 60 mmHg.
   HTN -- will need to resume anti-HTN medications sequentially, carefully
   monitoring of BP.
   HYPOXEMIA -- unclear etiology.  CXR unrevealing.  Consider COPD
   evaluation or sleep apnea evaluation.  Monitor SaO2, maintain >90%
   ACUTE RENAL FAILURE -- attributed to hypovolemia and hypotension (low
   flow).  Possible ATN, although .  Improved, non-oliguric.  Monitor UO,
   BUN, creatinine.  Avoid nephrotoxins.
   AORTIC ULCERATION
 ascending aorta.  Monitor.
   AAA -- stable.  Vascular Surgery following.  No indication for acute
   intervention
   THROMBOCYTOPENIA -- monitor.  Possible medication related.
   Remaining plans as per Medicine Housestaff
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2200-7-23**] 09:29 PM
   Multi Lumen - [**2200-7-23**] 10:01 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill